US05514680
4-Iodo-3-trifluoromethyl-nitrobenzene
To a mixture of 3.1 g (15.0 mmol) of 2-amino-5-nitrobenzotrifluoride in 60 mL of 40% (v/v) H2SO4 stirred in an ice-bath was added dropwise a solution of 2.1 g (30.4 mmol) of NaNO2 in 10 mL of H2O. The resulting yellow solution was stirred in an ice-bath for 1 h and it was added dropwise into a well stirred solution of 10 g of NaI in 250 mL of H2O cooled in an ice bath. Gas releasing and precipitate was observed. The mixture was stirred overnight at 25° C., filtered and washed by water, and dried to leave pale yellow solid (4.5 g, 94%), mp 81°-82° C. 1H NMR (CDCl3), 8.047 (dd, 1), 8.272 (d, 1), 8.483 (d, 1).

reactant | 2-amino-5-nitrobenzotrifluoride | 15.0 mmol, 3.1 g | NC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H5F3N2O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 30.4 mmol, 2.1 g | N(=O)[O-].[Na+]
reactant | NaI | 10 g | [Na+].[I-]
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 250 mL | O | H2O
product | 4-Iodo-3-trifluoromethyl-nitrobenzene | 4.5 g, 94% | IC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F3INO2
